Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
high-grade ductal carcinoma in situ
 
Major Surgical or Invasive Procedure:
1. LEFT TOTAL SIMPLE MASTECTOMY
2. LEFT AXILLARY SENTINEL NODE BIOPSY

 
History of Present Illness:
Ms. ___ initially presented with  an MRI abnormality on a high
risk MRI study performed ___.  At that time she was found 
to
have a 3.5 cm area of segmental non-mass enhancement in the left
upper inner quadrant extending to the base of the nipple.  She
also had a 0.8 cm enhancing mass with indistinct margins in the
outer central right breast.  There was a 0.7 cm hyperintense
enhancing lesion in the lower right breast.  Findings were
compatible with fibroadenoma.  

She subsequently underwent the ultrasound core biopsy the area 
of
non-masslike enhancement in the left breast and also a core
biopsy of the mass in the right breast which was a fibroadenoma. 


___ subsequently underwent an MRI core biopsy of an additional
finding in the right breast on ___ which was a
fibroadenoma.  Radiology and pathology were concordant and
pathology was benign.

She has no new complaints referable to her breasts, no new 
masses
nipple discharge nor breast pain. 

 
Past Medical History:
Dyslipidema
non-Hodgkin's lymphoma ___ s/p radiation and chemotherapy
PSH: 
R ACL repair
Lymph node biopsy

 
Social History:
___
Family History:
Family History: Unchanged
Breast and Ovarian Cancer:  Negative in first-order blood, she
has a paternal aunt who had a lumpectomy in her ___. 
Ms. ___ denies being of ___ descent.
 
Physical Exam:
CLINC PHYSICAL EXAM: 
On exam, she is a pleasant ___ woman, looks her stated age,
pleasant, appropriate affect.  
Vital Signs sheet entries for ___: 
BP: 147/90. Heart Rate: 108. O2 Saturation%: 100. Weight: 127.9
(With Clothes; With Shoes). BMI: 20.0. Temperature: 98.3. Pain
Score: 0.
HEENT is within normal limits.  Neck is supple.  There is no
thyroid enlargement or nodules.  There is no cervical or
supraclavicular lymphadenopathy.  
Chest is clear to percussion and auscultation. 
Cardiac exam, regular rate and rhythm without gallop or murmurs. 

Breasts are symmetric, bra size is 36AA.  There is no nipple
retraction nor skin dimpling.  There are multiple puncture sites
in her breast from recent needle biopsies.  There are no 
dominant
masses, no tenderness to palpation, no axillary lymphadenopathy. 

She has good range of motion of her arms and shoulders. 
Her abdomen is nontender.  
There is no organomegaly nor masses. There is no dependent edema
in her lower extremities. 
Neuro is physiologic.

DISCHARGE PHYSICAL EXAM: 
VITALS:
24 HR Data (last updated ___ @ 748)
    Temp: 98.4 (Tm 99.5), BP: 113/72 (100-122/65-75), HR: 92
(85-102), RR: 18 (___), O2 sat: 96% (96-99), O2 delivery: RA
Fluid Balance (last updated ___ @ 405)
  Last 8 hours  Total cumulative 155ml
    IN: Total 480ml, PO Amt 480ml
    OUT:  Total 325ml, Urine Amt 300ml, JP 25ml
  Last 24 hours  Total cumulative 713ml
    IN: Total 2593ml, PO Amt 1010ml, IV Amt Infused 1583ml
    OUT:  Total 1880ml, Urine Amt 1800ml, JP 80ml
Physical Exam:
Gen: NAD, AxO
Pulm: breathing comfortably on RA, no respiratory distress
Breast: L breast incision dressed w/gauze + tegaderm, mild
serosanguineous strikethrough - incision c/d/i, steri-strips in
place; JP w/serosang output (see above)
Abd: Soft, nontender to palpation without rebound or guarding,
non-distended
Ext: No edema, warm well-perfused
 
Pertinent Results:
No labs were done during this admission as her clinic labs were 
unremarkable 
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
a eft total simple mastectomy with sentinel lymph node biopsy. 
She tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.

Neuro: Pain was well controlled with ibuprofen and 
acetaminophen. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was advanced to and tolerated a regular diet 
soon after the surgery and at time of discharge. Patient's 
intake and output were closely monitored
GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: The patient was monitored for signs of bleeding, and wore 
compression socks. She was encouraged to get up and ambulate as 
early as possible. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the breast 
surgery clinic in ___ weeks. This information was communicated 
to the patient directly prior to discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 5 mg PO QPM 
2. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ibuprofen 600 mg PO Q8H  
3.  Atorvastatin 5 mg PO QPM  
4.  LORazepam 0.5 mg PO BID:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ following a left total simple 
mastectomy with sentinel lymph node biopsy. You are recovering 
appropriately and are now ready for discharge - please take note 
of the following instructions:

Personal Care:  
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. You may wear a surgical bra or soft, loose camisole for 
comfort.  
6. You may NOT shower until your drain has been removed
7. The Dermabond skin glue will begin to flake off in about ___ 
days.  

Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.  

We wish you the best!
Your ___ Breast Surgery Team
 
Followup Instructions:
___